* Revision 20 exploratory LTspice run from the revision 19 clamp graph.
* Model: LT4363-1 and FDB33N25 from ADI LTspice 26.0.2 library.
* D1 uses the bundled 1N4148 model as a surrogate for 1N4148W.
* A 130 ohm resistive load and 0.5 ohm source are declared test inputs,
* not the converter startup model or qualified source envelope.
* Investigative brownout: 15 to 10 V in 100 us, 50 ms hold, 100 us return.
Vsrc SOURCE 0 PWL(0 0 1m 0 1.01m 15 4 15 4.0001 10 4.0501 10 4.0502 15 5 15)
Rsrc SOURCE AUX_RAW 0.5
Rshdn AUX_RAW SERVICE_RESET_N 1
R1 SNS AUX_PROTECTED 0.22
R2 AUX_PROTECTED FB 59k
R3 FB 0 4.99k
R4 AUX_RAW UV 91k
R5 UV 0 10k
R6 GATE_DRV Q_GATE 10
R7 GATE_DRV CG 100
C1 AUX_RAW 0 100n
C2 TMR 0 100n
C3 CG 0 1.5u
C4 AUX_PROTECTED 0 330u
D1 GATE_DRV CG 1N4148
M1 AUX_RAW Q_GATE SNS SNS FDB33N25
Rload AUX_PROTECTED 0 130
XU1 FB AUX_PROTECTED SNS GATE_DRV AUX_RAW SERVICE_RESET_N UV 0 FLT ENOUT TMR LT4363-1
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.mos
.lib LT4363-1.sub
.tran 0 5 0 20u startup
.meas TRAN output_at_4s FIND V(AUX_PROTECTED) AT 4
.meas TRAN output_at_4005ms FIND V(AUX_PROTECTED) AT 4.005
.meas TRAN output_at_4050ms FIND V(AUX_PROTECTED) AT 4.05
.meas TRAN output_at_4500ms FIND V(AUX_PROTECTED) AT 4.5
.meas TRAN output_at_5s FIND V(AUX_PROTECTED) AT 5
.meas TRAN raw_at_4050ms FIND V(AUX_RAW) AT 4.05
.meas TRAN uv_at_4050ms FIND V(UV) AT 4.05
.meas TRAN vgs_at_4005ms FIND V(Q_GATE,SNS) AT 4.005
.meas TRAN vgs_at_4050ms FIND V(Q_GATE,SNS) AT 4.05
.meas TRAN current_at_4050ms FIND Id(M1) AT 4.05
.meas TRAN tmr_at_4050ms FIND V(TMR) AT 4.05
.backanno
.end
