Passive gate-network probe: imposed voltage fall, NOT an LT4363 model
* No MOSFET or load. D1 is open during discharge; recovery/parasitics excluded.
* Old = MOSFET-side branch. Ref = controller-side branch.
Vdrive drv 0 PWL(0 25 10u 25 10.01u 0 1m 0)
R6ol drv qol 10
R7ol qol col 100
Col col 0 1.3u
R6oh drv qoh 10
R7oh qoh coh 100
Coh coh 0 1.7u
R6rl drv qrl 10
R7rl drv crl 100
Crl crl 0 1.3u
R6rh drv qrh 10
R7rh drv crh 100
Crh crh 0 1.7u
.options reltol=1e-6 abstol=1e-12 vntol=1e-8
.control
set noaskquit
set wr_singlescale
set wr_vecnames
tran 1u 1m 0 1u
meas tran old_lo_q FIND v(qol) AT=11u
meas tran old_hi_q FIND v(qoh) AT=11u
meas tran ref_lo_q FIND v(qrl) AT=11u
meas tran ref_hi_q FIND v(qrh) AT=11u
wrdata fast.tsv v(drv) v(qol) v(qoh) v(qrl) v(qrh) v(col) v(coh)
quit
.endc
.end
