Passive gate-network probe: imposed 50uA sink, NOT an LT4363 model
* No MOSFET or load. D1 is open during discharge; recovery/parasitics excluded.
* Ten volts is capacitor-to-ground initialization, NOT a VGS initial state.
Iol dol 0 50u
R6ol dol qol 10
R7ol qol col 100
Col col 0 1.3u IC=10
Ioh doh 0 50u
R6oh doh qoh 10
R7oh qoh coh 100
Coh coh 0 1.7u IC=10
Irl drl 0 50u
R6rl drl qrl 10
R7rl drl crl 100
Crl crl 0 1.3u IC=10
Irh drh 0 50u
R6rh drh qrh 10
R7rh drh crh 100
Crh crh 0 1.7u IC=10
.options reltol=1e-6 abstol=1e-12 vntol=1e-8
.control
set noaskquit
set wr_singlescale
set wr_vecnames
tran 50u 120m 0 50u uic
meas tran old_lo_q FIND v(qol) AT=120m
meas tran old_hi_q FIND v(qoh) AT=120m
meas tran ref_lo_q FIND v(qrl) AT=120m
meas tran ref_hi_q FIND v(qrh) AT=120m
meas tran old_hi_c FIND v(coh) AT=120m
meas tran old_hi_driver FIND v(doh) AT=120m
meas tran ref_hi_driver FIND v(drh) AT=120m
wrdata weak-refined.tsv v(doh) v(qol) v(qoh) v(qrl) v(qrh) v(col) v(coh)
quit
.endc
.end
